US06197729B1
a) 1-benzyloxy-4-(3,3,3-trifluoro-1-propenyl)benzene
At 130° C., 96 g of 3,3,3-trifluoropropene, 155 g of 1-benzyloxy-4-iodobenzene, 68.5 g of potassium acetate and 0.85 g of PdCl2 in 750 ml of methanol were reacted in an autoclave for 20 hours. After cooling to room temperature, the reaction mixture was mixed with water and extracted with ether. The combined organic phases were washed with water, dried and concentrated to give the title product as a colourless crystalline powder, which was reacted further without any purification.

reactant | 3,3,3-trifluoropropene | 96 g | FC(C=C)(F)F | C3H3F3
reactant | 1-benzyloxy-4-iodobenzene | 155 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)I | C13H11IO
reactant | potassium acetate | 68.5 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | methanol | 750 ml | CO | CH4O
catalyst | PdCl2 | 0.85 g | Cl[Pd]Cl
product | 1-benzyloxy-4-(3,3,3-trifluoro-1-propenyl)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC(F)(F)F | C16H13F3O
